US04474692
To a mixture of 500 ml of ethyl acetate, 33 g of sodium hydrogen carbonate and 500 ml of water is added 16.2 g of N-[1-(S)-ethoxycarbonyl-3-phenylpropyl]-L-alanyl-N-(indan-2-yl)glycine hydrobromide prepared by the procedure of Example 4. After stirring to complete dissolution, the solution was adjusted to pH 4 with 1N hydrochloric acid. The ethyl acetate layer is separated, washed with water, dried and, after addition of 20 ml of 7N ethanolic hydrochloric acid, concentrated under reduced pressure. To the residue are added 250 ml of ethyl ether and 250 ml of petroleum ether, and the resulting precipitate is collected by filtration to give 11 g of N-[1-(S)-ethoxycarbonyl-3-phenylpropyl]-L-alanyl-N-(indan-2-yl)glycine hydrochloride as colorless crystals.

reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogen carbonate | 33 g | C(O)([O-])=O.[Na+]
reactant | N-[1-(S)-ethoxycarbonyl-3-phenylpropyl]-L-alanyl-N-(indan-2-yl)glycine hydrobromide | 16.2 g | Br.C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@@H](C)C(=O)N(CC(=O)O)C1CC2=CC=CC=C2C1
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 500 ml | O | H2O
product | N-[1-(S)-ethoxycarbonyl-3-phenylpropyl]-L-alanyl-N-(indan-2-yl)glycine hydrochloride | 11 g | Cl.C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@@H](C)C(=O)N(CC(=O)O)C1CC2=CC=CC=C2C1 | InChI=1S/C26H32N2O5.ClH/c1-3-33-26(32)23(14-13-19-9-5-4-6-10-19)27-18(2)25(31)28(17-24(29)30)22-15-20-11-7-8-12-21(20)16-22;/h4-12,18,22-23,27H,3,13-17H2,1-2H3,(H,29,30);1H/t18-,23-;/m0./s1
